US08426408B2
N-(2-(1-hydroxycyclobutyl)phenyl)formamide (103 mg, 0.539 mmol) and potassium hydroxide (0.015 mL, 0.539 mmol) were combined in methanol (3 mL) and the mixture was heated to reflux for 3 hours. The reaction mixture was diluted with H2O (25 mL) and extracted with ethyl acetate (3×25 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated. The product was purified by flash chromatography (Analogix, 0 to 40% ethyl acetate in hexanes over 25 minutes, 4 g silica, 18 mL/minutes) to give 1-(2-aminophenyl)cyclobutanol.

reactant | N-(2-(1-hydroxycyclobutyl)phenyl)formamide | 0.539 mmol, 103 mg | OC1(CCC1)C1=C(C=CC=C1)NC=O | C11H13NO2
reactant | potassium hydroxide | 0.539 mmol, 0.015 mL | [OH-].[K+]
solvent | methanol | 3 mL | CO | CH4O
solvent | H2O | 25 mL | O | H2O
product | 1-(2-aminophenyl)cyclobutanol | NC1=C(C=CC=C1)C1(CCC1)O | C10H13NO
